* C:\users\noah\Documents\ECP\project\approx1\approx1_PPU.asc
XX8 T2 N004 N010 memsim+ecm_nominal params: w_init=3n
V7 N004 0 PWL file=V2.csv
S6 N010 N019 N016 0 MYSW
V14 N016 0 PWL file=Vsw2.csv
XX9 T1 N003 N009 memsim+ecm_nominal params: w_init=3n
V15 N003 0 PWL file=V1.csv
S7 N009 N019 N015 0 MYSW
V16 N015 0 PWL file=Vsw1.csv
XX10 S_IN N002 N008 memsim+ecm_nominal params: w_init=0n
V17 N002 0 PWL file=VSIN.csv
S8 N008 N019 N014 0 MYSW
V18 N014 0 PWL file=VswSIN.csv
XX11 C_IN N001 N007 memsim+ecm_nominal params: w_init=3n
V19 N001 0 PWL file=VCIN.csv
S9 N007 N019 N013 0 MYSW
V20 N013 0 PWL file=VswCIN.csv
XX1 C_OUT N006 N011 memsim+ecm_nominal params: w_init=3n
SWCOUT1 N011 N019 N017 0 MYSW
V1 N017 0 PWL file=VswCOUT.csv
XX2 S_OUT N005 N012 memsim+ecm_nominal params: w_init=3n
VCOUT1 N006 0 PWL file=VCOUT.csv
SWSOUT1 N012 N019 N018 0 MYSW
V2 N018 0 PWL file=VswSOUT.csv
VSOUT1 N005 0 PWL file=VSOUT.csv

* block symbol definitions
.subckt memsim+ecm_nominal s Vp Vn
B1 0 w I=G_on(V(Vp,Vn))
B2 0 w I=G_off(V(Vp,Vn))
C1 w 0 1
D1 w N003 idealD
D2 N004 w idealD
V1 N003 0 {w_off}
R1 N001 0 {R_on}
Fv N002 Vn Bm -1
Bm N001 0 V=vs(V(Vp,Vn),V(w))
E1 s 0 w 0 {1/w_off}
R2 Vp N002 1µ
V2 N004 0 {w_on}
.ic V(w)={w_init}
.model idealD D(Ron=1f Roff=100G Vfwd=0.1f)
.param alpha_off=2  w_off=3n
.param alpha_on=2  w_on=0
.param w_init=0n
.param R_on=174 R_off=1933.15
.param v_off=1.56v v_on=-0.39v
.param k_off=406.488m k_on=-62.37m
.func G_off(v) {k_off*pow( (v/v_off-1),alpha_off)*u(v-v_off)}
.func G_on(v) {k_on*pow( (v/v_on-1) ,alpha_on)*u(v_on-v)}
.param lambda=(R_off/R_on)
.func vs(v,w) {v/(1+(lambda-1)*(w_off-w)/(w_off-w_on) )}
.ends memsim+ecm_nominal

.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.tran 180u
.model MYSW SW(Ron=1n Roff=1000meg Vt=.5)
.backanno
.end
